US05229523
DHAP (0.5 mmole) was added to an aqueous solution of 2-azido-3-hydroxypropanal (1 mmole in 40 ml) and the pH value adjusted to 7.0 with 10N NaOH. To this solution was added rhamnulose-1-phosphate aldolase from E. coli (4 g), which had been treated with egg white lysozyme (40 mg) in Tris buffer (pH 7.5, 25 ml) for one hour at 35° C., to form a mixture and the mixture stirred slowly for two days. The stirred mixture was adjusted to a pH value of 4.7, and acid phosphatase (400 units) added. The resulting mixture was incubated at 37° C. for 48 hours, neutralized to a pH value of 7.0 and lyophilized. The residue was treated with MeOH and filtered to remove the insoluble material. The MeOH was removed under reduced pressure and the crude product purified with silica gel column chromatography (CHCl3 :MeOH=6:1) to give 5-azido-5-deoxy-D-xylohexulose in 30 percent yield.

reactant | DHAP | 0.5 mmole | C(C(=O)COP(=O)(O)O)O | C3H7O6P
reactant | 2-azido-3-hydroxypropanal | 1 mmole, 40 ml | N(=[N+]=[N-])C(C=O)CO | C3H5N3O2
reactant | NaOH | 10N | [OH-].[Na+]
reactant | MeOH | CO | CH4O
solvent | Tris | 25 ml, pH 7.5 | C(C(CO)(CO)N)O | C4H11NO3
product | 5-azido-5-deoxy-D-xylohexulose | 30 percent yield | N(=[N+]=[N-])[C@@H]([C@@H]([C@H](C(CO)=O)O)O)CO | C6H11N3O5
